### PR TITLE
feat(Combinatorics/Additive): Sidon sets

### PR DESCRIPTION
**Pull request by d0d1**
Add small Sidon predicates for sets in commutative monoids.

The multiplicative predicate is `IsMulSidon` over `[CommMonoid G]`; the additive predicate `IsAddSidon` is generated from it with `@[to_additive]`. Multiplicatively, the predicate says that whenever `a * b = c * d` for elements `a`, `b`, `c`, `d` of the set, then either `a = c` and `b = d`, or `a = d` and `b = c`. Additively, products are replaced by sums. The two elements in each pair are not required to be distinct.

This provides a small `Set`-based Sidon API in AddCombi. It adds monotonicity, empty and singleton cases, subsingleton sets, directed `iUnion` and `sUnion` lemmas, and two-element-set pair lemmas in torsion-free groups.

Zulip discussion: https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/AddCombi.20PR.20for.20Sidon.20sets/with/594873478. This PR started from the Sidon API discussed there and incorporates follow-ups for subsingletons, directed unions, and pair lemmas.

## AI use

GitHub Copilot CLI was used to help draft and check this change. I reviewed it for scope and consistency with the Sidon API proposal.

## Validation

- `lake build AddCombi.Mathlib.Combinatorics.Additive.Sidon`
- `lake exe mk_all` with unrelated `module -- shake: keep-all` churn restored
- `lake env lean /tmp/sidon_final_checks.lean` for generated additive API signatures, generated docstrings, `gcongr` behavior examples, `docBlame`, and `simpNF`
- `lake build AddCombi`
- `lake build`
- `git diff --check`
- warning/error/sorry/admit/docBlame/simpNF scan over validation logs

### CODE REVIEW

**Comment by d0d1** [comment]
LLM-generated

File: AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean [hunk 1]
```diff
@@ -0,0 +1,62 @@
...
+public section
+
+variable {G : Type*} [AddCommMonoid G]
+
+/-- A set `A` is Sidon if whenever `a + b = c + d` for elements `a`, `b`, `c`,
+`d` of `A`, then either `a = c` and `b = d`, or `a = d` and `b = c`. The two
+elements in each pair are not required to be distinct. -/
+def IsSidon (A : Set G) : Prop :=
+  ∀ ⦃a b c d : G⦄, a ∈ A → b ∈ A → c ∈ A → d ∈ A →
+    a + b = c + d → (a = c ∧ b = d) ∨ (a = d ∧ b = c)
```
Comment (YaelDillies) [inline AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean]:
```suggestion
    a + b = c + d → a = c ∧ b = d ∨ a = d ∧ b = c
```

File: AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean [hunk 2]
```diff
@@ -0,0 +1,62 @@
...
+
+public section
+
+variable {G : Type*} [AddCommMonoid G]
+
+/-- A set `A` is Sidon if whenever `a + b = c + d` for elements `a`, `b`, `c`,
+`d` of `A`, then either `a = c` and `b = d`, or `a = d` and `b = c`. The two
+elements in each pair are not required to be distinct. -/
+def IsSidon (A : Set G) : Prop :=
+  ∀ ⦃a b c d : G⦄, a ∈ A → b ∈ A → c ∈ A → d ∈ A →
```
Comment (YaelDillies) [inline AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean]:
```suggestion
  ∀ ⦃a : G⦄, a ∈ A → ∀ ⦃b : G⦄, b ∈ A → ∀ ⦃c : G⦄, c ∈ A → ∀ ⦃d : G⦄, d ∈ A →
```

File: AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean [hunk 3]
```diff
@@ -0,0 +1,62 @@
...
+-/
+
+public section
+
+variable {G : Type*} [AddCommMonoid G]
+
+/-- A set `A` is Sidon if whenever `a + b = c + d` for elements `a`, `b`, `c`,
+`d` of `A`, then either `a = c` and `b = d`, or `a = d` and `b = c`. The two
+elements in each pair are not required to be distinct. -/
+def IsSidon (A : Set G) : Prop :=
```
Comment (YaelDillies) [inline AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean]: Can we have both `IsMulSidon` and `IsAddSidon`, with the latter generated from the former via `@[to_additive]`?

File: AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean [hunk 4]
```diff
@@ -0,0 +1,62 @@
...
+theorem IsSidon.mono {A B : Set G} (hB : IsSidon B) (hAB : A ⊆ B) :
+    IsSidon A := by
+  intro a b c d ha hb hc hd hsum
+  exact hB (hAB ha) (hAB hb) (hAB hc) (hAB hd) hsum
+
+/-- The empty set is Sidon. -/
+@[simp]
+theorem IsSidon.empty : IsSidon (∅ : Set G) := by
+  intro a b c d ha
+  cases ha
```
Comment (YaelDillies) [inline AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean]: Same below
```suggestion
  simp [IsSidon]
```

File: AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean [hunk 5]
```diff
@@ -0,0 +1,62 @@
...
+/-- A set `A` is Sidon if whenever `a + b = c + d` for elements `a`, `b`, `c`,
+`d` of `A`, then either `a = c` and `b = d`, or `a = d` and `b = c`. The two
+elements in each pair are not required to be distinct. -/
+def IsSidon (A : Set G) : Prop :=
+  ∀ ⦃a b c d : G⦄, a ∈ A → b ∈ A → c ∈ A → d ∈ A →
+    a + b = c + d → (a = c ∧ b = d) ∨ (a = d ∧ b = c)
+
+/-- A subset of a Sidon set is Sidon. -/
+theorem IsSidon.mono {A B : Set G} (hB : IsSidon B) (hAB : A ⊆ B) :
+    IsSidon A := by
```
Comment (YaelDillies) [inline AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean]:
```suggestion
@[gcongr] theorem IsSidon.mono {A B : Set G} (hAB : A ⊆ B) (hB : IsSidon B) :
    IsSidon A := by
```

**Review by YaelDillies — COMMENTED** [review]
Can you also prove that
1. Subsingletons are Sidon;
2. Directed unions of Sidon sets are Sidon;
3. Pairs are Sidon over torsion-free groups (in fact, it's enough for the group to not be 2-torsion but we don't have a good way to state that)?

**Comment by d0d1** [comment]
Thank you for the review @YaelDillies. I pushed an update addressing the requested changes: multiplicative-first `IsMulSidon` with generated `IsAddSidon`, directed unions, subsingletons, and pair lemmas. Let me know if you have any remaining concerns or suggestions.

File: AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean [hunk 6]
```diff
@@ -0,0 +1,122 @@
...
+  exact hB (hAB ha) (hAB hb) (hAB hc) (hAB hd) hprod
+
+/-- The empty set is Sidon. -/
+@[to_additive (attr := simp)]
+theorem isMulSidon_empty : IsMulSidon (∅ : Set G) := by
+  simp [IsMulSidon]
+
+/-- A subsingleton set is Sidon. -/
+@[to_additive]
+theorem Set.Subsingleton.isMulSidon (hA : A.Subsingleton) : IsMulSidon A := by
```
Comment (YaelDillies) [inline AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean]:
```suggestion
theorem IsMulSidon.of_subsingleton (hA : A.Subsingleton) : IsMulSidon A := by
```
since this isn't primarily a property of sets

File: AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean [hunk 7]
```diff
@@ -0,0 +1,122 @@
...
+
+/-- A subset of a Sidon set is Sidon. -/
+@[to_additive (attr := gcongr), gcongr]
+theorem IsMulSidon.mono (hAB : A ⊆ B) (hB : IsMulSidon B) : IsMulSidon A := by
+  intro a ha b hb c hc d hd hprod
+  exact hB (hAB ha) (hAB hb) (hAB hc) (hAB hd) hprod
+
+/-- The empty set is Sidon. -/
+@[to_additive (attr := simp)]
+theorem isMulSidon_empty : IsMulSidon (∅ : Set G) := by
```
Comment (YaelDillies) [inline AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean]:
```suggestion
protected theorem IsMulSidon.empty : IsMulSidon (∅ : Set G) := by
```
for dot notation

File: AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean [hunk 8]
```diff
@@ -0,0 +1,122 @@
...
+/-- A directed union of Sidon sets is Sidon. -/
+@[to_additive]
+theorem isMulSidon_iUnion {ι : Sort*} {A : ι → Set G} (hA : Directed (· ⊆ ·) A)
+    (h : ∀ i, IsMulSidon (A i)) : IsMulSidon (⋃ i, A i) := by
+  intro a ha b hb c hc d hd hprod
+  rw [Set.mem_iUnion] at ha hb hc hd
+  obtain ⟨i, hai⟩ := ha
+  obtain ⟨j, hbj⟩ := hb
+  obtain ⟨k, hck⟩ := hc
+  obtain ⟨l, hdl⟩ := hd
```
Comment (YaelDillies) [inline AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean]:
```suggestion
  simp only [isMulSidon, Set.mem_iUnion]
  rintro a ⟨i, hai⟩ b ⟨j, hbj⟩ c ⟨k, hck⟩ d ⟨l, hdl⟩ hprod
```

File: AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean [hunk 9]
```diff
@@ -0,0 +1,122 @@
...
+  exact Or.inl ⟨hA ha hc, hA hb hd⟩
+
+/-- A singleton is Sidon. -/
+@[to_additive (attr := simp)]
+theorem isMulSidon_singleton (a : G) : IsMulSidon ({a} : Set G) := by
+  simp [IsMulSidon]
+
+/-- A directed union of Sidon sets is Sidon. -/
+@[to_additive]
+theorem isMulSidon_iUnion {ι : Sort*} {A : ι → Set G} (hA : Directed (· ⊆ ·) A)
```
Comment (YaelDillies) [inline AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean]:
```suggestion
protected theorem IsMulSidon.iUnion {ι : Sort*} {A : ι → Set G} (hA : Directed (· ⊆ ·) A)
```
same below

File: AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean [hunk 10]
```diff
@@ -0,0 +1,122 @@
...
+
+end CommMonoid
+
+section CommGroup
+
+variable [CommGroup G] [IsMulTorsionFree G]
+
+/-- A pair in a torsion-free group is Sidon. -/
+@[to_additive]
+theorem isMulSidon_pair (a b : G) : IsMulSidon ({a, b} : Set G) := by
```
Comment (YaelDillies) [inline AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean]: Same here again

File: AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean [hunk 11]
```diff
@@ -0,0 +1,122 @@
...
+  exact isMulSidon_iUnion (directedOn_iff_directed.mp hS) fun A ↦ h A.1 A.2
+
+end CommMonoid
+
+section CommGroup
+
+variable [CommGroup G] [IsMulTorsionFree G]
+
+/-- A pair in a torsion-free group is Sidon. -/
+@[to_additive]
```
Comment (YaelDillies) [inline AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean]:
```suggestion
/-- A pair in a torsion-free group is Sidon. -/
@[to_additive /-- A pair in a torsion-free group is Sidon. -/]
```

File: AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean (hunk 6 above)
Comment (d0d1) [reply AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean]: Moved to the IsMulSidon namespace ✅

File: AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean (hunk 7 above)
Comment (d0d1) [reply AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean]: Updated access modifier for dot notation consistency ✅

File: AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean (hunk 8 above)
Comment (d0d1) [reply AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean]: rewrote the proof to unfold IsMulSidon and Set.mem_iUnion directly and destruct union memberships with rintro

File: AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean (hunk 9 above)
Comment (d0d1) [reply AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean]: Renamed/protected the directed union lemmas as IsMulSidon.iUnion and IsMulSidon.sUnion ✅

File: AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean (hunk 10 above)
Comment (d0d1) [reply AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean]: Changed the pair lemma to the protected namespaced style, with the additive IsAddSidon.pair generated by to_additive

File: AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean (hunk 11 above)
Comment (d0d1) [reply AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean]: Kept the multiplicative docstring and added the to_additive docstring ✅

File: AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean [hunk 12]
```diff
@@ -0,0 +1,119 @@
...
+def IsMulSidon [CommMonoid G] (A : Set G) : Prop :=
+  ∀ ⦃a : G⦄, a ∈ A → ∀ ⦃b : G⦄, b ∈ A → ∀ ⦃c : G⦄, c ∈ A → ∀ ⦃d : G⦄,
+    d ∈ A → a * b = c * d → a = c ∧ b = d ∨ a = d ∧ b = c
+
+section CommMonoid
+
+variable [CommMonoid G] {A B : Set G}
+
+/-- A subset of a Sidon set is Sidon. -/
+@[to_additive (attr := gcongr), gcongr]
```
Comment (YaelDillies) [inline AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean]: The docstring for the additive version is missing, same below

File: AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean [hunk 13]
```diff
@@ -0,0 +1,119 @@
...
+* `IsMulSidon.mono` / `IsAddSidon.mono`: subsets of Sidon sets are Sidon.
+* `IsMulSidon.empty` / `IsAddSidon.empty`: the empty set is Sidon.
+* `IsMulSidon.singleton` / `IsAddSidon.singleton`: singletons are Sidon.
+* `IsMulSidon.of_subsingleton` / `IsAddSidon.of_subsingleton`: subsingleton
+  sets are Sidon.
+* `IsMulSidon.iUnion` / `IsAddSidon.iUnion`: directed unions of Sidon sets are
+  Sidon.
+* `IsMulSidon.sUnion` / `IsAddSidon.sUnion`: directed unions of sets of Sidon
+  sets are Sidon.
+* `IsMulSidon.pair` / `IsAddSidon.pair`: pairs in torsion-free groups are Sidon.
```
Comment (YaelDillies) [inline AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean]: You have listed all declarations
```suggestion
## Main declarations

* `IsMulSidon`/`IsAddSidon`: Predicates for a set to be Sidon.
```

File: AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean (hunk 12 above)
Comment (d0d1) [reply AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean]: Every Sidon `@[to_additive]` declaration now has an explicit additive docstring ✅

File: AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean (hunk 13 above)
Comment (d0d1) [reply AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean]: Done ✅ made the `Main declarations` block more concise and limited it to `IsMulSidon`/`IsAddSidon`.

**Comment by d0d1** [comment]
Synced the PR to the latest `master` and verified locally with `lake build AddCombi`

File: AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean [hunk 14]
```diff
@@ -0,0 +1,110 @@
...
+  ∀ ⦃a : G⦄, a ∈ A → ∀ ⦃b : G⦄, b ∈ A → ∀ ⦃c : G⦄, c ∈ A → ∀ ⦃d : G⦄,
+    d ∈ A → a * b = c * d → a = c ∧ b = d ∨ a = d ∧ b = c
+
+section CommMonoid
+
+variable [CommMonoid G] {A B : Set G}
+
+/-- A subset of a Sidon set is Sidon. -/
+@[to_additive (attr := gcongr) /-- A subset of an additively Sidon set is additively Sidon. -/,
+  gcongr]
```
Comment (YaelDillies) [inline AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean]:
```suggestion
@[to_additive (attr := gcongr) /-- A subset of an additively Sidon set is additively Sidon. -/]
```
`to_additive already does the relevant tagging

File: AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean [hunk 15]
```diff
@@ -0,0 +1,109 @@
...
+/-- The empty set is Sidon. -/
+@[to_additive (attr := simp) /-- The empty set is additively Sidon. -/]
+protected theorem IsMulSidon.empty : IsMulSidon (∅ : Set G) := by
+  simp [IsMulSidon]
+
+/-- A subsingleton set is Sidon. -/
+@[to_additive /-- A subsingleton set is additively Sidon. -/]
+protected theorem IsMulSidon.of_subsingleton (hA : A.Subsingleton) : IsMulSidon A := by
+  intro a ha b hb c hc d hd _
+  exact Or.inl ⟨hA ha hc, hA hb hd⟩
```
Comment (YaelDillies) [inline AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean]:
```suggestion
  exact .inl ⟨hA ha hc, hA hb hd⟩
```

File: AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean [hunk 16]
```diff
@@ -0,0 +1,109 @@
...
+  obtain ⟨ijkl, hijkijkl, hlijkl⟩ := hA ijk l
+  exact h ijkl (hijkijkl (hijijk (hiij hai))) (hijkijkl (hijijk (hjij hbj)))
+    (hijkijkl (hkijk hck)) (hlijkl hdl) hprod
+
+/-- A directed union of Sidon sets is Sidon. -/
+@[to_additive /-- A directed union of additively Sidon sets is additively Sidon. -/]
+protected theorem IsMulSidon.sUnion {S : Set (Set G)} (hS : DirectedOn (· ⊆ ·) S)
+    (h : ∀ A ∈ S, IsMulSidon A) : IsMulSidon (⋃₀ S) := by
+  rw [Set.sUnion_eq_iUnion]
+  exact IsMulSidon.iUnion (directedOn_iff_directed.mp hS) fun A ↦ h A.1 A.2
```
Comment (YaelDillies) [inline AddCombi/Mathlib/Combinatorics/Additive/Sidon.lean]:
```suggestion
  exact .iUnion hS.directed_val fun A ↦ h A.1 A.2
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

**Comment by d0d1** [comment]
@YaelDillies thank you for your patience and careful review. I have taken notes on all feedback for future PRs
